Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Mechanical fall.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ s/p mechanical fall while going to the bathroom. Patient 
fell over her left hip.  Now complains of neck and groin pain.  
No prodrome.  She did hit her head, negative LOC.  She is on 
aspirin and coumadin.  She has felt left arm tingling for the 
past several weeks, but no new weakness, or tingling.  No bowel 
or bladder difficulties.  Patient is normally mostly wheelchair 
bound but uses the walker for transfers.   
 
Past Medical History:
-Sensory-motor neuropathy
-Lumbar spinal stenosis/OA
-___ weakness
-HTN
-Afib (coumadin)
-Depression
-Osteoporosis on bisphosphonates
-Chronic Insomnia
-CKD stage III
-Pulmonary fibrosis
-Degenerative disc disease
-CVA ___ resulting in L partial hemiparesis
-Anxiety ___
-Atrophic Vaginitis
-Hemorrhoids
-Gout
-Cognitive disorder
-Chronic UTIs
-Pubic rami fx ___
-Aneurysmal dilation of aorta
-Renal cysts

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Physical Exam on Discharge:
Vitals: 98 99 147/80 16 94% RA 
Gen: AOx2-3, NAD
CV: RRR
Resp: Nonlabored breathing
Abd: Soft, NT
RUE: 1x2cm abrasion to lateral aspect right upper arm.
LLE:  Skin intact.  Fires ___.  SILT s/s/sp/dp/t. 
Capillary refill < 2 sec.  

 
Pertinent Results:
CT head:
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Findings which suggest chronic small vessel ischemic disease. 

.
CT ab/pelvis:
IMPRESSION: 
1. Comminuted left iliac and pubic rami fractures suggest a 
lateral 
compression injury. No evidence of active extravasation.  
2. No acute intra-abdominal or pelvic organ injury. 
3. Incompletely evaluated interstitial lung disease. 
4. Extensive atherosclerotic disease with an infrarenal 
abdominal aortic 
aneurysm measuring 3.6 cm. Follow-up surveillance is recommended 
in six 
months by ultrasound or CT. 
5. Possible tiny gallbladder polyp versus cholelithiasis without 
evidence of acute cholecystitis. 
6. Sigmoid diverticulosis without evidence of acute 
diverticulitis. 
7. Fluid in the endometrial canal or possibly true endometrial 
thickening for which pelvic ultrasound can be performed if 
clinically relevant since 
hyperplasia and even carcinoma are differential considerations. 
8. Lobulated appearance of the liver which may reflect 
cirrhosis; clinical 
correlation is suggested. 
.
MRI cervical spine:
IMPRESSION: 
1. Type 2 odontoid fracture. Given the STIR signal abnormality 
at the site 
of fracture, it appears to be acute/subacute. Please correlate 
with clinical findings. 
2. Multilevel degenerative changes in the cervical spine as 
described above. 
  

  

 
Brief Hospital Course:
The patient is a ___ s/p mechanical fall from home while going 
to the bathroom, sustaining a C2 fracture and pelvic fractures, 
admitted to the acute care surgery service for further care.
.
C2 fracture: On initial C-spine the patient was noted to have a 
C2 fracture, which was then confirmed on MRI. It was thought to 
be subacute, and evaluated by the orthopedic spine service. She 
was initially placed in a hard collar, and switched to a 
soft-collar which she should continue as needed for comfort 
only. 
.
Pelvic Fractures: The patient was found to have comminuted left 
iliac and pubic rami fractures. The orthopedic surgery service 
was consulted, and after discussion between orthopedic surgical 
attending (Dr. ___, the patient, and the patient's son 
(her health care proxy), it was determined that her fractures 
are non-operative. She is wheelchair bound/occasionally using 
the walker at home, and given the nature of the fractures a 
non-operative course was determined to be the soundest course. 
She should remain in bed rest for 1 month (___), and may 
be transferred to a chair with assist. She should f/u with 
orthopedics in ___ weeks after discharge. 
.
Afib: The patient was restarted on her home coumadin and ASA for 
AFib on ___. She should continue to have her INR monitered 
at rehab (goal ___. Her INR on discharge was 1.8, for which she 
received 5mg of coumadin.
.
DVT prophylaxis: The patient was initially maintained on HSQ, 
switched to lovenox, and finally discharged home on her coumadin 
and asa for DVT prophylaxis.
.
CHF: The patient was continued on her home lasix while 
inpatient. 
Osteoperosis: The patient was continued on her home vitamin D3 
and Alendronate 70mg q week while inpatient. 

This patient was cared for by the acute care surgical service.

 
Medications on Admission:
Coumadin 5mg 3x per week/5.5mg 4x per week; Miralax 17gm qd; 
Alendronate 70mg q week; ASA 81'; Omeprazole 20', Lactulose 
30ml''; Vit D 50,000U q month; Lidoderm patch to R. neck 12/day; 
Lasix 60', Acetaminophen 650''; Neurontin 100''/400mg qHS; 
Oxycontin 10''; Remeron 15 qHS; Vagifem (Estrogen) 20mcg tab 
vaginally 2x per week
 
Discharge Medications:
1. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Miralax 17 gram/dose Powder Sig: One (1)  PO once a day.  
3. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

4. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day.  
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
6. lactulose 20 gram Packet Sig: ___  PO once a day.  
7. Vitamin D 50,000 unit Capsule Sig: One (1) Capsule PO once a 
month.  
8. Lidoderm 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: One 
(1)  Topical every six (6) hours as needed for pain: To R. neck 
for pain.  
9. Lasix 40 mg Tablet Sig: 1.5 Tablets PO once a day.  
10. Neurontin 100 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
11. Neurontin 400 mg Capsule Sig: One (1) Capsule PO at bedtime. 
 
12. OxyContin 10 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO twice a day.  
13. Remeron 15 mg Tablet Sig: One (1) Tablet PO at bedtime.  
14. Vagifem 10 mcg Tablet Sig: Two (2)  Vaginal twice a week.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1) C2 fracture
2) Pelvic fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound x 1 month (___), out of bed to 
chair with assist

 
Discharge Instructions:
You were admitted to the hospital after you sustained a fall 
from standing. You suffered a fracture of one of the bones of 
your neck, which is stable, and may actually be an old fracture. 
You should use the soft collar given to you for comfort. You 
also suffered from pelvic fractures, which in discussion with 
the orthopedic surgeons, are non-operative. You will be on bed 
rest for 1 month (you may be transferred to a chair with 
assist). You should follow up with the orthopedic surgeons in 
___ weeks as below. 
 
Followup Instructions:
___